US04788320
Ethyl 2-(3-bromo-2-chloro-4,5-difluorobenzoyl)acetate
To an emulsion of diethyl 2-(3-bromo-2-chloro-4,5-difluorobenzoyl)malonate (11.44 g) in water (16 ml) was added p-toluenesulfonic acid (15 mg) and refluxed for 3 hours with stirring vigorously. After cooling, the reaction mixture was extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography eluting with dichloromethane-n-hexane (1:1) to give the title compound (4.56 g), mp 47°-51° C.

reactant | diethyl 2-(3-bromo-2-chloro-4,5-difluorobenzoyl)malonate | 11.44 g | BrC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1F)F)Cl | C14H12BrClF2O5
reactant | p-toluenesulfonic acid | 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 16 ml | O | H2O
product | Ethyl 2-(3-bromo-2-chloro-4,5-difluorobenzoyl)acetate | 4.56 g | BrC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)Cl | C11H8BrClF2O3
